US04159375
6-(p-Fluorophenyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine
A mixture of 3.09 g. of 3-hydrazino-6-(p-fluorophenyl)-1,2,4-triazine and 35 ml. of ethyl orthoformate is refluxed for 2 hours, cooled and poured into hexane. The solid is collected and washed with ethanol giving the desired product as a brown solid, m.p. 231°-235° C.

reactant | 3-hydrazino-6-(p-fluorophenyl)-1,2,4-triazine | N(N)C=1N=NC(=CN1)C1=CC=C(C=C1)F | C9H8FN5
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
solvent | hexane | CCCCCC | C6H14
product | 6-(p-Fluorophenyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine | FC1=CC=C(C=C1)C=1C=NC=2N(N1)C=NN2 | C10H6FN5
